US07494964B2
1-(4-Chloropyridin-2-yl)-5-pyridin-2-ylpentan-1,3,5-trione
A mixture of 21.3 g (131 mmol) of 1-pyridin-2-ylbutane-1,3-dione and 36.3 g (196 mmol) of ethyl 4-chloropyridine-2-carboxylate in 100 ml of absolute tetrahydrofuran is added dropwise to 10.43 g (261 mmol, about 60% dispersion) of sodium hydride in 200 ml of absolute tetrahydrofuran at the boiling point over the course of two hours. The mixture is stirred for another two hours at 70° C., evaporated on a rotary evaporator, and 200 ml of water are subsequently added cautiously at 4° C. The mixture is rendered neutral with 5N hydrochloric acid, and 1-(4-chloropyridin-2-yl)-5-pyridin-2-ylpentane-1,3,5-trione is filtered off as a yellowish green solid The dried, sparingly soluble product is processed further without any particular purification steps.

reactant | 1-pyridin-2-ylbutane-1,3-dione | 131 mmol, 21.3 g | N1=C(C=CC=C1)C(CC(C)=O)=O | C9H9NO2
reactant | ethyl 4-chloropyridine-2-carboxylate | 196 mmol, 36.3 g | ClC1=CC(=NC=C1)C(=O)OCC | C8H8ClNO2
reactant | sodium hydride | 261 mmol, 10.43 g | [H-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(4-Chloropyridin-2-yl)-5-pyridin-2-ylpentan-1,3,5-trione | ClC1=CC(=NC=C1)C(CC(CC(=O)C1=NC=CC=C1)=O)=O | C15H11ClN2O3
